US05420275
8-Amino-7-methylpyrido[3.4-d]pyridazine-1,4(2H,3H)dione (L-023)
To 57 mg of 3-amino-6-chloro-4,5-diethoxycarbonyl-2-methylpyridine was added 0.5 ml of hydrazine monohydrate, and the mixture was heated in a stream of nitrogen at 100° C. for 30 minutes. The solvent is distilled off, and the resultant crystals were collected by filtration with ethanol. After water was added to the crystals, the mixture was neutralized with 1N hydrochloric acid.

reactant | 3-amino-6-chloro-4,5-diethoxycarbonyl-2-methylpyridine | 57 mg | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)Cl)C | C12H15ClN2O4
reactant | hydrazine monohydrate | 0.5 ml | O.NN
product | 8-Amino-7-methylpyrido[3.4-d]pyridazine-1,4(2H,3H)dione | NC1=C(N=CC=2C(NNC(C21)=O)=O)C | C8H8N4O2
